US04929613
4-[3-(Amino)cyclopentyl]-2,5-difluorobenzoic acid.
A solution of 35.2 g (0.1 mol) of 4-[3-(1,3-dihydro-1,3-dioxo-2H-isoindol-2-yl)cyclopentyl]-2,5-difluorobenzonitrile in 150 ml of 98% sulfuric acid was heated at 100° for 6 hours. The reaction mixture was poured onto 1.2 L of ice and water and stirred for 2 hours until the granular precipitate dispersed. The solid was removed by filtration, washed with water and the wet filter cake suspended in 200 ml of concentrated hydrochloric acid. The suspension was heated at reflux for 8 hours and evaporated to dryness in vacuo. The residue was triturated with 250 ml of ethanol/ether (1:1); the solid was removed by filtration, washed with ethanol/ether (1:1), ether, and dried in vacuo to give 20.1 g of the title compound.

reactant | 4-[3-(1,3-dihydro-1,3-dioxo-2H-isoindol-2-yl)cyclopentyl]-2,5-difluorobenzonitrile | 0.1 mol, 35.2 g | O=C1N(C(C2=CC=CC=C12)=O)C1CC(CC1)C1=CC(=C(C#N)C=C1F)F | C20H14F2N2O2
reactant | water | O | H2O
reactant | sulfuric acid | 150 ml | S(O)(O)(=O)=O | H2O4S
product | 4-[3-(Amino)cyclopentyl]-2,5-difluorobenzoic acid | 20.1 g | NC1CC(CC1)C1=CC(=C(C(=O)O)C=C1F)F | C12H13F2NO2
